US06514971B1
The starting material 4-chloro-7-methoxycinnoline hydrochloride was obtained by heating a solution of 4-hydroxy-7-methoxycinnoline (352 mg, 2 mmol), (prepared as described in J. Chem. Soc. 1955, 2100), in thionyl chloride (3.5 ml) containing DMF (20 μl) at reflux, for 1 hour. After removing excess thionyl, chloride by evaporation and azeotroping with toluene. The residue was triturated with ether, filtered off and washed with ether to give 4-chloro-7-methoxycinnoline hydrochloride as a yellow solid (450 mg, 97%).

reactant | 4-hydroxy-7-methoxycinnoline | 2 mmol, 352 mg | OC1=CN=NC2=CC(=CC=C12)OC | C9H8N2O2
reactant | DMF | 20 μl | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 3.5 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloro-7-methoxycinnoline hydrochloride | 450 mg, 97% | Cl.ClC1=CN=NC2=CC(=CC=C12)OC | InChI=1S/C9H7ClN2O.ClH/c1-13-6-2-3-7-8(10)5-11-12-9(7)4-6;/h2-5H,1H3;1H
